US03978127
2-(α,α,β,β-Tetrafluorophenethyl)benzylamine, 1.4 g. (0.005 mole), in 100 ml. of ethyl formate, is stirred and heated to refluxing for about 20 hours. Evaporation of the solution to dryness and trituration of the residual solid with petroleum ether gives N-[2-(α,α,β,β-tetrafluorophenethyl)benzyl]formamide, m.p. 61°-75°C.

reactant | 2-(α,α,β,β-Tetrafluorophenethyl)benzylamine | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(CN)C=CC=C1 | C15H13F4N
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | N-[2-(α,α,β,β-tetrafluorophenethyl)benzyl]formamide | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(CNC=O)C=CC=C1 | C16H13F4NO
